US07897593B2
N,N-Dimethyl-1,4-dioxa-8-azaspiro[4.5]decane-8-sulfonamide.
To a solution of 1,4-dioxa-8-azaspiro[4,5]decane (5.0 g, 35 mmol) in THF (25 mL) was added triethylamine (5 mL, 36 mmol) followed by N,N-dimethylsulfamoyl chloride (3.7 mL, 35 mmol). The resulting white mixture was stirred at room temperature for 1 h. The solids were removed by filtration and the solution was concentrated to give the title compound as a white solid (8.7 g, 100% yield). 1H NMR (300 MHz, CDCl3) δ: 3.93 (4H, s), 3.35 (4H, t, J=5.8 Hz), 2.78 (6H, s), 1.73 (4H, t, J=5.8 Hz). LCMS (M+H) calcd for C9H19N2O4S: 251.10; found: 251.24.

reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 35 mmol, 5.0 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | triethylamine | 36 mmol, 5 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylsulfamoyl chloride | 35 mmol, 3.7 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N,N-Dimethyl-1,4-dioxa-8-azaspiro[4.5]decane-8-sulfonamide | 8.7 g, 100% yield | CN(S(=O)(=O)N1CCC2(OCCO2)CC1)C | C9H18N2O4S
